US05112966
A solution of (3S,4S)-4-(1-ethoxycarbonylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone (1.04 g) in isopropanol (20 ml) and water (10 ml) was treated with sodium borohydride (230 mg) in the presence of nickel chloride (40 mg) at 0°-5° C. for 15 minutes. After stirring at room temperature for additional 1 hour, the reaction mixture was diluted with ethyl acetate (300 ml), washed with brine and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave an oily residue, which was purified by silica gel chromatography to yield (3S,4S)-4-(1-ethoxycarbonylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone.

reactant | (3S,4S)-4-(1-ethoxycarbonylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | 1.04 g | C(C)OC(=O)C(=C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C18H21NO6
reactant | sodium borohydride | 230 mg | [BH4-].[Na+]
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | nickel chloride | 40 mg | [Ni](Cl)Cl
product | (3S,4S)-4-(1-ethoxycarbonylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | C(C)OC(=O)C(C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C18H23NO6
